US06790977B2
The preparation was carried out according to the process of Example 2a except that 3,4-(methylenedioxy)benzonitrile was used as the starting material instead of 3-methoxy-4-hydroxybenzonitrile to form the reaction mixture. 3,4-Dihydroxybenzonitrile was obtained as a pale brown solid with a yield of 94% and a purity of greater than 97% as indicated by HPLC analysis.

reactant | 3,4-(methylenedioxy)benzonitrile | C1OC=2C=C(C#N)C=CC2O1 | C8H5NO2
reactant | 3-methoxy-4-hydroxybenzonitrile | COC=1C=C(C#N)C=CC1O | C8H7NO2
product | 3,4-Dihydroxybenzonitrile | yield of 94% | OC=1C=C(C#N)C=CC1O | C7H5NO2
